US07557213B2
Preparation of 1-(6-Amino-pyridin-2-ylmethyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one
The mixture of 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one 70 mg (0.228 mmol) in DMF (1 mL) and sodium hydride 11.8 mg (0.296 mmol ) was stirred at room temperature for 60 min, followed by the addition of N-[1-(2-Bromo-1-methyl-ethylideneamino)-vinyl]-2,2,2-trifluoro-acetamide 83.8 mg (0.296 mmol). The mixture was stirred for 60 min, quenched with water, taken up with ethyl acetate, dried over sodium sulfate and purified with flash chromatography. The purified product was treated with Diethylamine in methanol over weekend, filtered to give the desired product 10 mg. LCMS observed for (M+H)+: 414.

reactant | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 0.228 mmol, 70 mg | O1CCOC2=C1C=CC(=C2)C(=O)C2=CNC1=CC=CC=C1C2=O | C18H13NO4
reactant | sodium hydride | 0.296 mmol, 11.8 mg | [H-].[Na+]
reactant | N-[1-(2-Bromo-1-methyl-ethylideneamino)-vinyl]-2,2,2-trifluoro-acetamide | 0.296 mmol, 83.8 mg | BrCC(C)=NC(=C)NC(C(F)(F)F)=O | C7H8BrF3N2O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(6-Amino-pyridin-2-ylmethyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 10 mg | NC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C1=CC2=C(OCCO2)C=C1 | C24H19N3O4
